US09212245B2
Using a similar procedure as outlined in Example 4 and shown in FIG. 2 (with either pyridine or potassium carbonate as base), 2,6-diamino-2,6-dideoxy-D-galactose is reacted with acryloyl chloride to yield N,N-(2,6-deoxy-D-galactose)-2,6-acrylamide, galactose-derived N-((5-acrylamido-3,4,6-trihydroxytetrahydro-2H-pyran-2-yl)methyl)acrylamide.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-diamino-2,6-dideoxy-D-galactose | N[C@@H](C=O)[C@@H](O)[C@@H](O)[C@H](O)CN | C6H14N2O4
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | galactose | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
